US05948907
A suspension of indole-3-acetamide (1.00 g, 5.74 mmol) and methyl indolyl-3-glyoxylate (1.28 g, 6.30 mmole) in THF (10 mL) was treated with a 1 molar solution of potassium tert-butoxide in THF (17.2 mL, 17.2 mmol) at room temperature under N2. The resultant dark reaction mixture was stirred 3 hrs. at room temperature and was then treated with concentrated (37%) HCl (8 mL) allowing the reaction to exotherm. The reaction was worked up extractively using EtOAc (125 mL), water (2× 100 mL), brine (25 ml) and the organic layer dried (MgSO4) and solvent removed in vacuo to give a solid that was purified by flash chromatography using a gradient of 2:1 to 1:1 hexanes:EtOAc to give 2.04 g (100%) of arcyriarubin A [1.28 g (68%) when using glyoxylyl chloride]. 3,4-(3-indolyl-1H-pyrrole-2,5-dione could also be recrystallized from EtOH to give a stiochiometric ethanol monosolvate in high purity (>99%) and yield (88%). NMR. MS (FD) m/z=327 (M+, 100%). Analytical calculated for C22H19N3O3C, 70.76; H, 5.13; N, 11.25. Found C, 70.97; H, 5.22; N, 11.12.

reactant | indole-3-acetamide | 5.74 mmol, 1.00 g | N1C=C(C2=CC=CC=C12)CC(=O)N | C10H10N2O
reactant | methyl indolyl-3-glyoxylate | 6.30 mmole, 1.28 g | COC(=O)C(=O)C1=CNC2=CC=CC=C21 | C11H9NO3
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | EtOAc | 125 mL | CCOC(=O)C | C4H8O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | brine | 25 ml | [Cl-].[Na+].O
solvent | THF | 17.2 mmol, 17.2 mL | C1CCOC1 | C4H8O
solvent | water | 100 mL | O | H2O
product | arcyriarubin A | 2.04 g | C1=CC=C2C(=C1)C(=CN2)C3=C(C(=O)NC3=O)C4=CNC5=CC=CC=C54 | C20H13N3O2
